US04957934
The 1-(4-chlorophenoxy) 3-(1,2,4-triazol-1-yl)propan-2 ol (3.0g) was dissolved in acetone (100ml) and treated with Jones reagent (3ml) for 3 h. To complete the oxidation, two subsequent additions of Jones reagent (0.5ml) were added. After cooling, ethyl acetate (150ml) was added and the reaction was neutralised by the addition of a saturated solution of sodium bicarbonate. The organic phase was separated, washed with water, dried and concentrated to dryness under reduced pressure. The residue was purified by chromatography on silica using 2% by volume methenol in chloroform as eluent, to give 1-(4-chlorophenoxy)-3-(1,2,4-triazol -1-yl)propan-2-one as a gum, NMR in deuteriochloroform: δ4.7(2H,s), 5.38(2H,s), 6.85(2H,d), 7.3(2H,d), 8.01(1H,s), 8.17(1H,s).

reactant | 1-(4-chlorophenoxy) 3-(1,2,4-triazol-1-yl)propan-2 ol | 3.0g | ClC1=CC=C(OCC(CN2N=CN=C2)O)C=C1 | C11H12ClN3O2
reactant | Jones reagent | 3ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Jones reagent | 0.5ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | ethyl acetate | 150ml | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 100ml | CC(=O)C | C3H6O
product | 1-(4-chlorophenoxy)-3-(1,2,4-triazol -1-yl)propan-2-one | ClC1=CC=C(OCC(CN2N=CN=C2)=O)C=C1 | C11H10ClN3O2
